US08404859B2
Preparation of 5-[(1H-Indazol-4-ylmethyl)-carbamoyl]-3-isopropyl-thiophene-2-carboxylic acid
A mixture of 5-[(1H-Indazol-4-ylmethyl)-carbamoyl]-3-isopropyl-thiophene-2-carboxylic acid methyl ester (126 mg, 0.35 mmol), lithium hydroxide monohydrate (150 mg, 3.53 mmol), THF (4 mL) and water (5 mL) was stirred 15 h, acidified with 1N HCl and extracted with EtOAc (×3). The organic extracts were combined, washed with brine, dried over sodium sulfate, filtered and evaporated to give the title compound, 115.6 mg (96%). MS m/e 344.3 (M+H+).

reactant | 5-[(1H-Indazol-4-ylmethyl)-carbamoyl]-3-isopropyl-thiophene-2-carboxylic acid methyl ester | 0.35 mmol, 126 mg | COC(=O)C=1SC(=CC1C(C)C)C(NCC1=C2C=NNC2=CC=C1)=O | C18H19N3O3S
reactant | lithium hydroxide monohydrate | 3.53 mmol, 150 mg | O.[OH-].[Li+]
reactant | THF | 4 mL | C1CCOC1 | C4H8O
reactant | HCl | 1N | Cl | ClH
solvent | water | 5 mL | O | H2O
product | 5-[(1H-Indazol-4-ylmethyl)-carbamoyl]-3-isopropyl-thiophene-2-carboxylic acid | N1N=CC2=C(C=CC=C12)CNC(=O)C1=CC(=C(S1)C(=O)O)C(C)C | C17H17N3O3S
